US04994452
8-Methoxy-1,2,3,4-tetrahydro-9-acridinamine
6-Methoxyanthranilonitrile (14.0 g) was dissolved in nitrobenzene (150 ml) and cyclohexanone (18.45 g), and freshly fused zinc chloride (25.6 g) was added. The reaction mixture was warmed at 125° C. for 1.5 hr, cooled to room temperature, and poured into ether (1 l). The solid was collected, washed with ether, and distributed between 2-butanone and ammonium hydroxide. The organic phase was washed with brine, dried, filtered, and evaporated. The residue was recrystallized two times from ethyl acetate to give 13.7 g (63.8%), mp 187°-188° C.

reactant | 6-Methoxyanthranilonitrile | 14.0 g | COC=1C=CC=C(C1C#N)N | C8H8N2O
reactant | ether | 1 l | CCOCC | C4H10O
solvent | nitrobenzene | 150 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | cyclohexanone | 18.45 g | C1(CCCCC1)=O | C6H10O
product | 8-Methoxy-1,2,3,4-tetrahydro-9-acridinamine | COC=1C=CC=C2N=C3CCCCC3=C(C12)N | C14H16N2O
